US06610685B2
Preparation of (S)-2-(6-ethoxy-2,3-dihydro-1H-3a-aza-cyclopenta[a]inden-8-yl)-1-methyl-ethylamine
Iodoethane (15.8 mL, 220.64 mmol) and potassium carbonate (28.4 g, 220.05 mmol) were added to [2-(5-Chloro-pent-1-ynyl)-4-hydroxy-phenyl]-carbamic acid methyl ester (39 g, 145.68 mmol) in N,N-dimethylformamide (300 mL). The mixture was stirred 3 h at room temperature. The mixture was poured into 1M pH7 phosphate buffer and the organic phase extracted twice with ethyl acetate. The combined organic phases were washed with brine, dried over sodium sulfate and evaporated to dryness. The oily residue was purified by column chromatography on silica gel (6:1 to 5:1 hexane/ethyl acetate eluant) to afford the product as an oil (29 g, 67% over two steps) which solidified upon standing in the refrigerator. m.p. 55-56° C. 6-Ethoxy-2,3-dihydro-1H-3a-aza-cyclopenta[a]indene [2-(5-Chloro-pent-1-ynyl)-4-ethoxy-phenyl]-carbamic acid methyl ester (28.5 g, 96.36 mmol) was dissolved in acetonitrile (600 mL). Palladium (II) chloride (0.9 g, 5.08 mmol) was added and the mixture was heated 2 h at 70° C. The dark mixture was cooled to room temperature and filtered through a small pad of celite, while washing the pad with acetonitrile. The solvent was evaporated to dryness and the brown residue (30 g) taken up in tert-butanol (600 mL). Powdered potassium hydroxide (22 g, 392.09 mmol) was added and the mixture stirred 40 min in an oil-bath at 105° C. The mixture was cooled, poured onto ice and extracted twice with ethyl acetate. The combined organic phases were washed with water, brine, dried over sodium sulfate and evaporated. The brown residue was purified by column chromatography on silica gel (5:1 hexane/ethyl acetate) to afford the product as an off-white solid (13.4 g, 69%). m.p.101-102° C.

reactant | 6-Ethoxy-2,3-dihydro-1H-3a-aza-cyclopenta[a]indene [2-(5-Chloro-pent-1-ynyl)-4-ethoxy-phenyl]-carbamic acid methyl ester | 96.36 mmol, 28.5 g | COC(NC1=C(C=C(C=C1)OCC)C#CCCCCl)=O.C(C)OC1=CC=2C=C3N(C2C=C1)CCC3
reactant | potassium hydroxide | 392.09 mmol, 22 g | [OH-].[K+]
solvent | acetonitrile | 600 mL | C(C)#N | C2H3N
catalyst | Palladium (II) chloride | 5.08 mmol, 0.9 g | [Pd](Cl)Cl
product | (S)-2-(6-ethoxy-2,3-dihydro-1H-3a-aza-cyclopenta[a]inden-8-yl)-1-methyl-ethylamine | 13.4 g, 69% | C(C)OC1=CC=2C(=C3N(C2C=C1)CCC3)C[C@H](C)N | C16H22N2O
